US04448781
Hydrolysis of 4-chloro-2-(1-imidazolylmethyl)phenoxyacetic acid ethyl ester by the method of Example 14 gave 4-chloro-2-(1-imidazolylmethyl)phenoxyacetic acid, m.p. 222°-224° C. (from water). Found: C, 53.95, H, 4.10, N, 10.52. C12H11ClN2O3 requires: C, 54.04, H, 4.16, N, 10.50%.

reactant | 4-chloro-2-(1-imidazolylmethyl)phenoxyacetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)Cl)CC=1NC=CN1)=O | C14H15ClN2O3
solvent | water | O | H2O
product | 4-chloro-2-(1-imidazolylmethyl)phenoxyacetic acid | ClC1=CC(=C(OCC(=O)O)C=C1)CC=1NC=CN1 | C12H11ClN2O3
